US08685969B2
7-Hydroxy-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 7-(2-methoxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide (70 mg, 0.135 mmol) and aluminum triiodide (137 mg, 0.337 mmol) in acetonitrile (6 mL) was heated at reflux for 4 hr. Upon cooling to room temperature, the reaction was quenched with ice water (20 mL). The mixture was extracted with ethyl acetate (3×30 mL). The combined extract was with brine (25 mL) and dried over anhydrous MgSO4. After the solvent was removed under vacuum, the residue was purified by reverse phase HPLC. The correct fractions were concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×30 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (12.9 mg, 0.026 mmol, 19.54% yield) as a yellow solid. LCMS (M+H)+=462.23. 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropisomer) δ: 11.56 (s, 1H), 9.84 (s, 1H), 8.16 (s, 1H), 7.19 (s, 1H), 7.16 (d, J=8.6 Hz, 1H), 1.81 (s, 3H).

reactant | 7-(2-methoxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.135 mmol, 70 mg | COCCOC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C30H25N5O4
reactant | aluminum triiodide | 0.337 mmol, 137 mg | [I-].[I-].[I-].[Al+3]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | 7-Hydroxy-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.026 mmol, 12.9 mg, 19.54% yield | OC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C27H19N5O3
